US08003649B2
A stirred solution of methyl 2-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetate (95 mg, 0.25 mmol) in 2M dimethylamine in methanol (2.0 mL, 4.00 mmol) was heated at 120° C. in a microwave reactor for 1 hour. The reaction mixture was evaporated and the crude product was purified by preparative LCMS (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford N,N-dimethyl-2-[[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetamide (48.0 mg, 48.8%) as a white solid.

reactant | methyl 2-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetate | 0.25 mmol, 95 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)COCC(=O)OC)(F)F | C15H18F3N5O3
reactant | methanol | 4.00 mmol, 2.0 mL | CO | CH4O
reactant | dimethylamine | 2M | CNC | C2H7N
product | N,N-dimethyl-2-[[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]methoxy]acetamide | 48.0 mg, 48.8% | CN(C(COCC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C16H21F3N6O2
